US08557983B2
trans-4-(aminomethyl)cyclohexanol
Tert-butyl trans-(4-hydroxycyclohexyl)methylcarbamate (1 g) in dichloromethane (10 ml) was treated with trifluoroacetic acid (10 ml) at 0° C. for two hours. The reaction mixture was concentrated and the residue was dried under vacuum to provide the title compound.

reactant | Tert-butyl trans-(4-hydroxycyclohexyl)methylcarbamate | 1 g | O[C@@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O | C12H23NO3
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | trans-4-(aminomethyl)cyclohexanol | NC[C@@H]1CC[C@H](CC1)O | C7H15NO
